US04435403
20.3 g of beta-methoxymethyl-tryptophane-ethylester is dissolved in 350 ml of benzene, mixed with 2.48 g of paraformaldehyde and heated for 3.5 h in the water separator. After cooling, the benzene is distilled off, the residue is absorbed in 350 ml of toluene, and after adding 4.5 g of 10% palladium carbon, the mixture is heated with reflux for 20 h. The cooled solution is filtered and concentrated. The residue is chromatographed on silica gel with hexane/ethyl-acetate. The crystallization of the main fraction out of ethylacetate/diisopropylether yields 6.4 g of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester with a m.p. 118°-119° C.

reactant | beta-methoxymethyl-tryptophane-ethylester | 20.3 g | C(C)OC([C@@H](N)C(C1=CNC2=CC=CC=C12)COC)=O | C15H20N2O3
reactant | paraformaldehyde | 2.48 g | C=O | CH2O
reactant | water | O | H2O
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 6.4 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C16H16N2O3
